US08293924B2
To the solution of sodium salt of di-protected Ertapenem (50 g) {prepared by following the process disclosed in WO 2008062279} in a mixture of carbonated water (500 ml), IPA (2.6 ml) and ethyl acetate (20 L) in autoclave were charged sodium bicarbonate (6.5 gm) and Pd/carbon and subjected to hydrogenation with 3 to 10 Kg pressure at 5-10° C. After completion of reaction CO2 gas was purged and the reaction mass was filtered. The aqueous layer was separated, washed with ethyl acetate and was treated with activated carbon and neutral alumina, the residual solvents in aqueous layer removed using degassing technique and filtered. The aqueous layer was filtered through 0.2 micron filter paper and added into isopropyl alcohol and ethanol under stirring. The precipitated amorphous form of Ertapenem disodium (having moisture content: about 7% to 11%) was slurry washed with ethanol and IPE. The obtained solid (having moisture content: about 2.5% to 6%) was dried using dry N2 gas followed by humidified N2 gas to yield amorphous form of Ertapenem disodium (having moisture content: about 7% to 12%) and again dried using dry N2 gas at about 5-10° C. to yield amorphous form of Ertapenem disodium having moisture content (2.5-4.5%) with pharmaceutically acceptable level of residual solvent.

reactant | sodium | [Na] | Na
reactant | Ertapenem | 50 g | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)NC=4C=CC=C(C4)C(=O)O)C(=O)O)[C@@H](C)O | C22H25N3O7S
reactant | sodium bicarbonate | 6.5 gm | C([O-])(O)=O.[Na+]
reactant | CO2 | C(=O)=O | CO2
catalyst | Pd carbon | [Pd].[C]
solvent | ethyl acetate | 20 L | C(C)(=O)OCC | C4H8O2
solvent | IPA | 2.6 ml | CC(C)O | C3H8O
solvent | water | 500 ml | O | H2O
product | Ertapenem disodium | about 7% to 12% | C[C@@H]1[C@@H]2[C@H](C(=O)N2C(=C1S[C@H]3C[C@H](NC3)C(=O)NC4=CC=CC(=C4)C(=O)[O-])C(=O)[O-])[C@@H](C)O.[Na+].[Na+] | InChI=1S/C22H25N3O7S.2Na/c1-9-16-15(10(2)26)20(28)25(16)17(22(31)32)18(9)33-13-7-14(23-8-13)19(27)24-12-5-3-4-11(6-12)21(29)30;;/h3-6,9-10,13-16,23,26H,7-8H2,1-2H3,(H,24,27)(H,29,30)(H,31,32);;/q;2*+1/p-2/t9-,10-,13+,14+,15-,16-;;/m1../s1
